US06586617B1
To a suspension of sodium hydride (60%, 2.70 g (67.5 mmol)) in THF (100.0 ml), under cooling with ice and with stirring, 4-amino-3-nitrophenol (10.0 g (64.9 mmol)) was added. To the resulting mixture, after 10 minutes' stirring under cooling with ice, chloromethyl methyl ether (5.50 g (68.3 mmol)) was added dropwise and the mixture was stirred at 5° C. for one hour and at room temperature for one hour, and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with water and saturated aqueous solution of sodium bicarbonate successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Then the residue was subjected to silica gel column chromatography with chloroform-ethanol (100:1) as eluent to give 7.69 g (60%) of 4-methoxymethoxy-2-nitroaniline as red oil.

reactant | sodium hydride | 67.5 mmol, 2.70 g | [H-].[Na+]
reactant | 4-amino-3-nitrophenol | 64.9 mmol, 10.0 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | chloromethyl methyl ether | 68.3 mmol, 5.50 g | COCCl | C2H5ClO
solvent | THF | 100.0 ml | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-2-nitroaniline | 7.69 g, 60% | COCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O4
